US09024032B2
To a mixture of 1-(3-bromophenyl)-5-[(4-methoxybenzyl)oxy]-2-(2,2,2-trifluoro-1-hydroxyethyl)pyridin-4(1H)-one (400 mg, 0.826 mmol), quinolin-5-ylboronic acid (171 mg, 0.991 mmol), tris(3-sulfonatophenyl)phosphine hydrate sodium salt (79 mg, 0.124 mmol) and palladium(II)acetate (9.27 mg, 0.041 mmol), under nitrogen, were added DMF (6 mL), diisopropylamine (0.353 mL, 2.478 mmol) and water (1 mL). The reaction mixture was stirred at 60° C. under nitrogen for 1.5 h. After cooling to room temperature the reaction mixture was partitioned between half-saturated aqueous NH4Cl and EtOAc. Layers were separated and the aqueous solution was extracted with EtOAc (3×). Combined organic solutions were dried over Na2SO4, filtered and concentrated in vacuo. The resulting residue was dissolved in CH2Cl2-TFA (1:1, 6 mL), allowed to stand at room temperature for 10 min and then concentrated. Purification was done by preparative HPLC (5-95% CH3CN/H2O over 20 min, 0.05% added TFA, C18 OBD Sunfire 30×150 mm). The desired fractions were loaded onto a Strata-X—C cation exchange column. After washing the column with water and MeOH, the column was eluted with 5% NH4OH in MeOH to give 5-hydroxy-1-[3-(quinolin-5-yl)phenyl]-2-(2,2,2-trifluoro-1-hydroxyethyl)pyridin-4(1H)-one as tan solid (277 mg, 81%). 1H NMR (DMSO-d6, 400 MHz) □ 8.97-8.96 (m, 1H), 8.27 (dd, J=28.8, 8.4 Hz, 1H), 8.12 (d, J=8.4 Hz, 1H), 7.87 (t, J=7.5 Hz, 1H), 7.81-7.69 (m, 2H), 7.63-7.53 (m, 4H), 7.28 (br m, 1H), 6.54 (d, J=12.1 Hz, 1H), 4.84-4.73 (m, 1H). HRMS Calc (M+H)+ 413.1035. Found 413.1102.

reactant | 1-(3-bromophenyl)-5-[(4-methoxybenzyl)oxy]-2-(2,2,2-trifluoro-1-hydroxyethyl)pyridin-4(1H)-one | 0.826 mmol, 400 mg | BrC=1C=C(C=CC1)N1C(=CC(C(=C1)OCC1=CC=C(C=C1)OC)=O)C(C(F)(F)F)O | C21H17BrF3NO4
reactant | quinolin-5-ylboronic acid | 0.991 mmol, 171 mg | N1=CC=CC2=C(C=CC=C12)B(O)O | C9H8BNO2
reactant | tris(3-sulfonatophenyl)phosphine hydrate sodium salt | 0.124 mmol, 79 mg | [Na+].O.S(=O)(=O)([O-])C=1C=C(C=CC1)P(C1=CC(=CC=C1)S(=O)(=O)[O-])C1=CC(=CC=C1)S(=O)(=O)[O-].[Na+].[Na+]
reactant | diisopropylamine | 2.478 mmol, 0.353 mL | C(C)(C)NC(C)C | C6H15N
catalyst | palladium(II)acetate | 0.041 mmol, 9.27 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 1 mL | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 5-hydroxy-1-[3-(quinolin-5-yl)phenyl]-2-(2,2,2-trifluoro-1-hydroxyethyl)pyridin-4(1H)-one | 277 mg, 81% | OC=1C(C=C(N(C1)C1=CC(=CC=C1)C1=C2C=CC=NC2=CC=C1)C(C(F)(F)F)O)=O | C22H15F3N2O3
